US08106221B2
To a solution of 2-(tert-butoxycarbonyl(methyl)amino)acetic acid in CH2Cl2 at 0° C. under argon atmosphere was added DMAP, methyl 3-(3-chlorophenylamino)propylcarbamate and DCC. The reaction mixture was allowed to stir at room temperature for 24 h. The resulting suspension was filtered, the filtrate concentrated under reduced pressure and the crude residue was subjected to silica gel chromatography to give tert-butyl 2-((3-chlorophenyl)(3-(methoxycarbonylamino)propyl)amino)-2-oxoethyl(methyl)carbamate. 1H NMR δ 0.7-0.9 (m, 4H), 1.0-1.15 (m, 1H), 1.3 (s, 3H), 1.4 (s, 9H), 1.65 (m, 2H), 2.85 (m, 3H), 3.7 (m, 4H), 3.75 (m, 2H), 5.65 (m, 1H), 7.0-7.2 (m, 1H), 7.25 (m, 2H), 7.4 (m, 2H).

reactant | 2-(tert-butoxycarbonyl(methyl)amino)acetic acid | C(C)(C)(C)OC(=O)N(CC(=O)O)C | C8H15NO4
reactant | methyl 3-(3-chlorophenylamino)propylcarbamate | ClC=1C=C(C=CC1)NCCCNC(OC)=O | C11H15ClN2O2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 2-((3-chlorophenyl)(3-(methoxycarbonylamino)propyl)amino)-2-oxoethyl(methyl)carbamate | ClC=1C=C(C=CC1)N(C(CN(C(OC(C)(C)C)=O)C)=O)CCCNC(=O)OC | C19H28ClN3O5
